US06797718B2
Under a nitrogen atmosphere, methane sulfonic anhydride (550 mg) was added to a solution of 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (757 mg, 2.875 mmol), triethylamine (520 μL) and chloroform (11 mL). The reaction mixture was allowed to stir at ambient temperature for about 3 hours. The reaction mixture was diluted with chloroform (20 mL) and washed with saturated sodium bicarbonate solution (10 mL). The organic layer was dried over magnesium sulfate and then concentrated under reduced pressure to provide crude product as a light yellow oil. The oil was purified by column chromatography (10 g of silica gel eluting with 2% methanol in chloroform containing 0.5 % triethylamine). The fractions containing product were combined and concentrated under reduced pressure. The residue was purified using Method A described above to provide 0.2753 g of N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide.

reactant | methane sulfonic anhydride | 550 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.875 mmol, 757 mg | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
reactant | triethylamine | 520 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 11 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide | 0.2753 g | NC1=NC(=C(C2=C1N=C(N2CCOCCNS(=O)(=O)C)C)C)C | C14H23N5O3S
